US07582775B2
Preparation of 2-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-5-carboxylic acid
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid (330 mg, 0.730 mmol) is reduced using NaBH4 (55 mg, 1.46 mmol) in a reaction analogous to Example 2 to afford the title compound (0.306 g, 92%).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-5-carboxylic acid | 0.730 mmol, 330 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(S1)C=CC(=C2)C(=O)O)C)=O)(C)C | C27H32O4S
reactant | NaBH4 | 1.46 mmol, 55 mg | [BH4-].[Na+]
product | 2-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-5-carboxylic acid | 0.306 g, 92% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC2=C(S1)C=CC(=C2)C(=O)O | C27H34O4S
